US08227489B2
10.4 6-Dimethylamino-4-trifluoromethyl-3-aminopyridine hydrochloride (amine Vb)
A solution of 0.73 g (2.39 mmol) of 6-dimethylamino-4-trifluoromethyl-3-(tert-butoxycarbonylamino)pyridine, prepared in stage 10.3, in 8.5 ml of 4N hydrochloric acid in dioxane is stirred at reflux for 5 hours. 200 ml of ethyl ether are subsequently added to the cooled reaction mixture. 0.6 g of a precipitate is collected by filtration.

reactant | 6-dimethylamino-4-trifluoromethyl-3-(tert-butoxycarbonylamino)pyridine | 2.39 mmol, 0.73 g | CN(C1=CC(=C(C=N1)NC(=O)OC(C)(C)C)C(F)(F)F)C | C13H18F3N3O2
reactant | ethyl ether | 200 ml | C(C)OCC | C4H10O
reactant | hydrochloric acid | 4N, 8.5 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-Dimethylamino-4-trifluoromethyl-3-aminopyridine hydrochloride | Cl.CN(C1=CC(=C(C=N1)N)C(F)(F)F)C | InChI=1S/C8H10F3N3.ClH/c1-14(2)7-3-5(8(9,10)11)6(12)4-13-7;/h3-4H,12H2,1-2H3;1H
